US07709483B2
(e) 1,1-Dimethylethyl 7-(hydroxymethyl)-2,3-dihydro-1H-pyrido[3,4-b][1,4]oxazine-1-carboxylate
A solution of 1,1-dimethylethyl 7-[(acetyloxy)methyl]-2,3-dihydro-1H-pyrido[3,4-b][1,4]oxazine-1-carboxylate (0.84 g, 2.7 mmol) in 1,4-dioxane (20 ml) and water (5 ml) was treated with 2M sodium hydroxide solution (2.72 ml, 5.4 mmol). After 0.5 hour the mixture was concentrated to a volume of 5 ml and then partitioned between ethyl acetate and water. The organic extract was dried and evaporated to afford a colourless oil (0.78 g, 105%).

reactant | 1,1-dimethylethyl 7-[(acetyloxy)methyl]-2,3-dihydro-1H-pyrido[3,4-b][1,4]oxazine-1-carboxylate | 2.7 mmol, 0.84 g | C(C)(=O)OCC1=CC2=C(OCCN2C(=O)OC(C)(C)C)C=N1 | C15H20N2O5
reactant | sodium hydroxide | 5.4 mmol, 2M, 2.72 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 1,1-Dimethylethyl 7-(hydroxymethyl)-2,3-dihydro-1H-pyrido[3,4-b][1,4]oxazine-1-carboxylate | 0.78 g, 105% | OCC1=CC2=C(OCCN2C(=O)OC(C)(C)C)C=N1 | C13H18N2O4
